2126-11-02 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2126-11-1**] 04:47 PM
   Bilateral Lower Extremities
 EKG - At [**2126-11-1**] 05:14 PM
   ============
   1.        Continued on Heparin gtt
   2.        Bilateral LENIs negative
   3.        ECHO pending
   Allergies:
   Hydrochlorothiazide
   PRURITUS;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 92 (91 - 108) bpm
   BP: 127/90(97) {105/78(85) - 143/110(116)} mmHg
   RR: 17 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                     92 mL
                                                                     52 mL
   PO:
             TF:
   IVF:
                                                                     92 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   12.0 g/dL
   93 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   9 mg/dL
   108 mEq/L
   143 mEq/L
   33.2 %
   8.6 K/uL
        [image002.jpg]
                            [**2126-11-2**]  04:34 AM
   WBC
   8.6
   Hct
   33.2
   Plt
   202
   Cr
   0.8
   Glucose
   93
   Other labs: PT / PTT / INR:14.7/150.0/1.3, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   60F with bilateral extensive pulmonary emboli
   PLAN:
   ====
   Pulmonary Embolism: Precipitant likely recent bus ride.  Cancer
   screening up to date and significant for tubulovillous adenoma from
   colonoscopy in [**2125-1-8**].  Patient is a nonsmoker and is on no
   culprit medications.
   - Bolus fluids for blood pressure support
   - Continue Heparin gtt as per protocol
   - ECHO to assess for right heart strain
   - Daily EKG
   - LENIs negative
   CV:
   CAD: Hold ASA at this time.
   PUMP: Normotensive at this time.  Will hold ACE
   RHYTHM: nsr, evidence of right heart strain with q waves in III and TWI
   in III.  Maintain on telemetry. Daily EKG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Will call out to floor.
   ------ Protected Section ------
   I received a phone call from Dr. [**Last Name (STitle) 3014**] regarding the ECHO and he
   reported that the RV is dilated and hypokinetic and the LV has
   monoglobal hypokinesis.  Given this she will remain in the ICU for
   monitoring.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2126-11-2**] 12:30 ------

2126-11-02 10:29:00 Physician Attending Progress Note
Chief Complaint: Submassive PE
   HPI:
   60F with h/o HTN, hypothyroidism, p/w leg pain, dyspnea, and
   tachycardia after long bus ride.  Sent to ED by PCP and found to have
   extensive b/l PEs.  Tachy but BP stable, mod O2 requirement.  Does not
   require lysis currently.    On heparin gtt.  trop T 0.08.
   24 Hour Events:
 ULTRASOUND - At [**2126-11-1**] 04:47 PM
   Bilateral Lower Extremities- no DVT
 EKG - At [**2126-11-1**] 05:14 PM
   Allergies:
   Hydrochlorothiazide
   PRURITUS;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-2**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 93 (91 - 108) bpm
   BP: 133/96(103) {105/78(85) - 143/110(116)} mmHg
   RR: 22 (17 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                     92 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                     92 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   clear), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   202 K/uL
   93 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   9 mg/dL
   108 mEq/L
   143 mEq/L
   33.2 %
   8.6 K/uL
        [image002.jpg]
                            [**2126-11-2**]  04:34 AM
   WBC
   8.6
   Hct
   33.2
   Plt
   202
   Cr
   0.8
   Glucose
   93
   Other labs: PT / PTT / INR:14.7/150.0/1.3, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   -stable for floor
   -goal PTT 60-80, now at 600/h
   -anticoag for 9 months, then consider hypercoag w/u, PTT normal prior
   to heparin
   -up to date on cancer screening, healthy children
   Htn: normotensive currently
   -holding home lisinopril
   Ppx: heparin gtt
   Full Code
   Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2126-11-03 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-11-2**] 10:15 AM
 EKG - At [**2126-11-2**] 10:50 AM
 EKG - At [**2126-11-2**] 11:02 PM
   Echo showing RV dilation, global hypokinesis. kept in unit for one more
   day.
   Cardiac enzymes negative
   Allergies:
   Hydrochlorothiazide
   PRURITUS;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2126-11-2**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-3**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 91 (84 - 115) bpm
   BP: 127/88(96) {113/84(91) - 141/102(109)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    159 mL
                                                                    246 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    159 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    450 mL
   Urine:
                                                                    750 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -591 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   11.0 g/dL
   81 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.6 mEq/L
   5 mg/dL
   111 mEq/L
   141 mEq/L
   30.7 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-11-2**]  04:34 AM
                            [**2126-11-2**]  01:37 PM
                            [**2126-11-3**]  02:32 AM
   WBC
   8.6
   8.4
   Hct
   33.2
   30.7
   Plt
   202
   200
   Cr
   0.8
   0.5
   TropT
   0.08
   0.06
   Glucose
   93
   81
   Other labs: PT / PTT / INR:14.7/82.1/1.3, CK / CKMB /
   Troponin-T:115/4/0.06, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PULMONARY EDEMA
   60F with bilateral extensive pulmonary emboli
   PLAN:
   ====
   Pulmonary Embolism: Precipitant likely recent bus ride.  Cancer
   screening up to date and significant for tubulovillous adenoma from
   colonoscopy in [**2125-1-8**].  Patient is a nonsmoker and is on no
   culprit medications.
   - Bolus fluids for blood pressure support
   - Continue Heparin gtt as per protocol
   - ECHO to assess for right heart strain
   - Daily EKG
   - LENIs negative
   CV:
   CAD: Hold ASA at this time.
   PUMP: Normotensive at this time.  Will hold ACE
   RHYTHM: nsr, evidence of right heart strain with q waves in III and TWI
   in III.  Maintain on telemetry. Daily EKG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Will call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   22 Gauge - [**2126-11-2**] 08:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-11-03 11:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   60F with h/o HTN, hypothyroidism, p/w leg pain, dyspnea, and
   tachycardia after long bus ride.  Sent to ED by PCP and found to have
   extensive b/l PEs.  Tachy but BP stable, mod O2 requirement.  Does not
   require lysis currently.    On heparin gtt. TTE showed RV hypokinesis
   with dilation. CE show trop T going down from 0.08 to 0.06.
   24 Hour Events:
   Remained HD stable overnight.
   Allergies:
   Hydrochlorothiazide
   PRURITUS;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2126-11-2**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-3**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.1
   HR: 111 (84 - 115) bpm
   BP: 114/94(99) {113/84(91) - 141/102(109)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                    159 mL
                                                                    385 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                    159 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,200 mL
   Urine:
                                                                    750 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -591 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   200 K/uL
   81 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.6 mEq/L
   5 mg/dL
   111 mEq/L
   141 mEq/L
   30.7 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-11-2**]  04:34 AM
                            [**2126-11-2**]  01:37 PM
                            [**2126-11-3**]  02:32 AM
   WBC
   8.6
   8.4
   Hct
   33.2
   30.7
   Plt
   202
   200
   Cr
   0.8
   0.5
   TropT
   0.08
   0.06
   Glucose
   93
   81
   Other labs: PT / PTT / INR:14.7/56.4/1.3, CK / CKMB /
   Troponin-T:115/4/0.06, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE: Precipitant unclear, possibly bus
   ride
   -cont. heparin, goal PTT 60-80
   -wean O2 as tolerated
   RV Failure: [**2-9**] PE
   -no lysis unless develops shock, worsening respiratory failure
   Hypothyroidism: restart home synthroid
   Hypertension: holding lisinopril
   FEN: low salt diet
   ppx: heparin
   Access: 2 PIVs
   Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   22 Gauge - [**2126-11-2**] 08:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. 60 year old female
   admitted with submassive PE with Echo showing RV HK. On heparin but not
   thrombolytics as BP has not been low. She overall feels well with
   decreasing oxygen requirement. Intermittent in sinus tach. Continue
   anticoagulation and will f/u HR after fluid resuscitation.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2126-11-3**] 15:30 ------

2126-11-04 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.continued on heparin
   2. stayed in ICU for tachycardia
   Allergies:
   Hydrochlorothiazide
   PRURITUS;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 86 (84 - 127) bpm
   BP: 124/85(95) {113/84(89) - 130/99(105)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,402 mL
                                                                    161 mL
   PO:
                                                                    700 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    702 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    800 mL
   Urine:
                                                                  2,150 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                   -639 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   12.2 g/dL
   101 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   5 mg/dL
   106 mEq/L
   138 mEq/L
   32.0 %
   8.1 K/uL
        [image002.jpg]
                            [**2126-11-2**]  04:34 AM
                            [**2126-11-2**]  01:37 PM
                            [**2126-11-3**]  02:32 AM
                            [**2126-11-3**]  12:28 PM
                            [**2126-11-4**]  04:35 AM
   WBC
   8.6
   8.4
   8.1
   Hct
   33.2
   30.7
   34.1
   32.0
   Plt
   [**Telephone/Fax (3) 3078**]
   Cr
   0.8
   0.5
   0.6
   TropT
   0.08
   0.06
   Glucose
   93
   81
   85
   101
   Other labs: PT / PTT / INR:14.0/113.6/1.2, CK / CKMB /
   Troponin-T:115/4/0.06, Albumin:3.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   60F with bilateral extensive pulmonary emboli, troponin leak, RV
   dilation on echo.
   PLAN:
   ====
   #Pulmonary Embolism: Precipitant likely recent bus ride.  Cancer
   screening up to date and significant for tubulovillous adenoma from
   colonoscopy in [**2125-1-8**].  Patient is a nonsmoker and is on no
   culprit medications.  Echo [**11-2**] with right ventricular dilation and
   hypokinesis.  Has been tachycardic to 110
s and now clinically stable
   with a normal rate.
   - Continue Heparin gtt as per protocol and will need to start warfarin
   on the floor
   -PTT between 60-80
   - Daily EKG
   - LENIs negative
   - ECHO with RV strain
   CV:
   CAD: Hold ASA at this time.
   PUMP: Normotensive at this time.  Will hold ACE at this time.
   RHYTHM: nsr, evidence of right heart strain with q waves in III and TWI
   in III.  Maintain on telemetry. Daily EKG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-1**] 04:28 PM
   22 Gauge - [**2126-11-2**] 08:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: